US04996218
4-[2-[(6-Bromohexyl)oxy]ethyl]-2-methylthiazole
A mixture of 2-methyl-4-thiazoleethanol (2.22 g), 1,6-dibromohexane (7.1 ml) 12.5M aqueous sodium hydroxide (4 ml) and TAB (0.1 g) was stirred rapidly at room temperature for 16 h. The reaction mixture was diluted with water (30 ml), extracted with ether (3×30 ml) and the combined organic extracts were washed with water (30 ml) and brine (30 ml), dried and concentrated. The residual oil was purified by FCC eluting with diethyl eter-hexane (1:3) to give the title compound as an orange oil (2.21 g), t.l.c. (ether-hexane 1:3) Rf 0.17

reactant | 2-methyl-4-thiazoleethanol | 2.22 g | CC=1SC=C(N1)CCO | C6H9NOS
reactant | 1,6-dibromohexane | 12.5M, 7.1 ml | BrCCCCCCBr | C6H12Br2
solvent | water | 30 ml | O | H2O
product | 4-[2-[(6-Bromohexyl)oxy]ethyl]-2-methylthiazole | 2.21 g | BrCCCCCCOCCC=1N=C(SC1)C | C12H20BrNOS
